US08003654B2
21) Synthesis of ethyl-(3-methyl-isothiazol-5-ylmethyl)-amine
prepared by reaction of 3-methyl-isothiazole-5-carbaldehyde (Buttimore D. et al J. Chem. Soc. 1963, 2032-2039) with 2M ethylamine in THF.

reactant | 3-methyl-isothiazole-5-carbaldehyde | CC1=NSC(=C1)C=O | C5H5NOS
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(3-methyl-isothiazol-5-ylmethyl)-amine | C(C)NCC1=CC(=NS1)C | C7H12N2S
